US04556739
6,7-Dihydroxy-4-methyl-2(1H)quinazolinone-1-butanoic acid 1/4 Hydrate
When 6,7-dimethoxy-4-methyl-2(1H)quinazolinone-1-butanoic acid ethyl ester is refluxed with excess 40% aqueous HBr for 24 hours the title compound is afforded in 80% yield, mp 288°-299° C.

reactant | 6,7-dimethoxy-4-methyl-2(1H)quinazolinone 1-butanoic acid ethyl ester | COC=1C=C2C(=NC(NC2=CC1OC)=O)C.C(C)OC(CCC)=O
reactant | HBr | Br | BrH
product | 6,7-Dihydroxy-4-methyl-2(1H)quinazolinone 1-butanoic acid | 80% yield | OC=1C=C2C(=NC(NC2=CC1O)=O)C.C(CCC)(=O)O | InChI=1S/C9H8N2O3.C4H8O2/c1-4-5-2-7(12)8(13)3-6(5)11-9(14)10-4;1-2-3-4(5)6/h2-3,12-13H,1H3,(H,10,11,14);2-3H2,1H3,(H,5,6)
